US06399631B1
To a solution of 3-amino-9-ethylcarbazole (500 mg, 2.38 mol), 3-(dimethylamino)butyric add (438 mg, 2.62 mmol, 1.1 equiv), triethylamine (0.398 mL, 289 mg, 2.85 mmol, 1.2 equiv) and DMAP (145 mg, 0.5 equiv) in CH2Cl2 (10 mL) was added EDC (500 mg, 2.62 mmol). The resultant solution was maintained at room temperature for 19 hours, and then poured into water and extracted with CH2Cl2 (2×25 ml). The combined organics were washed with water (1×25 ml), dried over anhydrous Na2SO4 and concentrated. Purification of the residue by flash column chromatography 10% MeOH/CH2Cl2 grading to 2% ammonium hydroxide/10% MeOH/CH2Cl2) provided 4-dimethylamino-N-(9-ethyl-9H-carbazol-3-yl)-butyramide (595 mg, 77%) as a tan foam.

reactant | 3-amino-9-ethylcarbazole | 2.38 mol, 500 mg | NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C14H14N2
reactant | triethylamine | 2.85 mmol, 0.398 mL, 289 mg, 1.2 equiv | C(C)N(CC)CC | C6H15N
reactant | EDC | 2.62 mmol, 500 mg
reactant | water | O | H2O
catalyst | DMAP | 145 mg, 0.5 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-dimethylamino-N-(9-ethyl-9H-carbazol-3-yl)-butyramide | 595 mg, 77% | CN(CCCC(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)C | C20H25N3O
